US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-cyano-1-benzothiophene-2-carboxamide hydrochloride
1.5 g (7.38 mmol) of 7-cyano-1-benzothiophene-2-carboxylic acid and 1.47 g (7.38 mmol) of R-3-aminoquinuclidine dihydrochloride are initially charged in 25 ml of DMF. At 0° C., 1.70 g (8.86 mmol) of EDC, 1.20 g (8.86 mmol) of HOBt and 3.70 ml (26.6 mmol) of triethylamine are added to the solution. The mixture is stirred at RT for 18 h. The reaction is terminated by addition of a 10% strength aqueous sodium bicarbonate solution, and ethyl acetate is added. The resulting precipitate is filtered off with suction. The mother liquor is extracted twice with ethyl acetate. The organic phases are combined and concentrated. The crude product is purified by silica gel column chromatography (mobile phase: dichloromethane/methanol/25% ammonia 100:20:4). The product fractions are concentrated, dissolved in a mixture of methanol and 1N hydrochloric acid, then again concentrated and dried under high vacuum. 655.1 mg (24.5% of theory) of the title compound are obtained.

reactant | 7-cyano-1-benzothiophene-2-carboxylic acid | 7.38 mmol, 1.5 g | C(#N)C1=CC=CC=2C=C(SC21)C(=O)O | C10H5NO2S
reactant | EDC | 8.86 mmol, 1.70 g
reactant | HOBt | 8.86 mmol, 1.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 26.6 mmol, 3.70 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-cyano-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC=C1C#N | InChI=1S/C17H17N3OS.ClH/c18-9-13-3-1-2-12-8-15(22-16(12)13)17(21)19-14-10-20-6-4-11(14)5-7-20;/h1-3,8,11,14H,4-7,10H2,(H,19,21);1H/t14-;/m0./s1
